US04299832
A mixture of acetic anhydride (50 ml) and 4,5-diamino-1,3-dimethylpyrimidine-2,6-dione (5.4 g) was heated at reflux for 30 minutes. The mixture was then cooled, and the crystalline matter which separated was filtered off to give 5-acetylamino-4-amino-1,3-dimethylpyrimidine-2,6-dione as white needles. A suspension of oil-free sodium hydride (1.3 g) in dry dimethylformamide (5.0 ml) was stirred under nitrogen at 0° C. while the acetylamino compound was added. The mixture was then stirred for 30 minutes. Diethylaminoethyl chloride hydrochloride (4.64 g) was added, then the mixture was warmed to room temperature and stirred for 3 hours. Water was added, and the mixture was extracted with chloroform. The organic extracts were washed with water, dried and filtered, and the filtrate was evaporated to dryness. The solid residue was treated with 2 N aqueous sodium hydroxide (50 ml) at 100° C. for 30 minutes, then the mixture was extracted with chloroform, dried, filtered and evaporated to dryness. The oil product was dissolved in ethanol, treated with ethanolic hydrogen chloride and evaporated to dryness. The residue was recrystallised from isopropyl alcohol to give 8-methyl-7-(2-diethylaminoethyl)theophylline hydrochloride (3.1 g), mp 230°-232° C.

reactant | 4,5-diamino-1,3-dimethylpyrimidine-2,6-dione | 5.4 g | NC=1N(C(N(C(C1N)=O)C)=O)C | C6H10N4O2
reactant | acetic anhydride | 50 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-acetylamino-4-amino-1,3-dimethylpyrimidine-2,6-dione | C(C)(=O)NC1=C(N(C(N(C1=O)C)=O)C)N | C8H12N4O3
